US08530663B2
4-(4-Hydroxymethylthiophen-3-yl)piperidine-1-carboxylic Acid t-Butyl Ester
A solution of 4-(4-methoxycarbonylthiophen-3-yl)-piperidine-1-carboxylic acid t-butyl ester (100 mg, 310 μmol, 1.0 eq.) in THF (5 mL) was combined with a solution of LiAlH4 (23 mg) under nitrogen. The resulting solution was stirred for 30 minutes while the temperature was maintained at 0-5° C. in an ice/salt bath. The reaction was then quenched by the addition of water (50 μL) and aqueous NaOH (150 μL). The solids were filtered and the filtrate was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:10) to yield the titled compound (50 mg) as a colorless oil. MS m/z: [M+H]+ calcd for C15H24NO3S, 298. found 298.

reactant | 4-(4-methoxycarbonylthiophen-3-yl)-piperidine-1-carboxylic acid t-butyl ester | 310 μmol, 100 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CSC=C1C(=O)OC | C16H23NO4S
reactant | LiAlH4 | 23 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-Hydroxymethylthiophen-3-yl)piperidine-1-carboxylic Acid t-Butyl Ester | 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CSC=C1CO | C15H23NO3S
